US09388189B2
Methyl 3-bromo-1H-pyrrole-2-carboxylate
Methyl 3-bromo-1-(phenylsulfonyl)-1H-pyrrole-2-carboxylate (6.59 g, 19.15 mmol) was dissolved in 132 mL anhydrous methanol under nitrogen atmosphere and it was cooled at 0° C. Sodium methoxide (1.55 g, 28.69 mmol) was added and the reaction mixture was stirred at room temperature for 4 h. The reaction was poured into a saturated ammonium chloride solution and extracted twice with ethyl acetate. The organics were combined and washed with water, brine, dried over sodium sulphate, filtered and evaporated under reduced pressure. The crude was purified using SP1® Purification System (0% to 30%, hexane-ethyl acetate) to obtain 3.32 g (85% yield) of the title compound as a white solid.

reactant | Methyl 3-bromo-1-(phenylsulfonyl)-1H-pyrrole-2-carboxylate | 19.15 mmol, 6.59 g | BrC1=C(N(C=C1)S(=O)(=O)C1=CC=CC=C1)C(=O)OC | C12H10BrNO4S
reactant | Sodium methoxide | 28.69 mmol, 1.55 g | C[O-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 132 mL | CO | CH4O
product | Methyl 3-bromo-1H-pyrrole-2-carboxylate | 3.32 g, 85% yield | BrC1=C(NC=C1)C(=O)OC | C6H6BrNO2
